US07462624B2
Step C: N-Pentyl-5-(1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine
A mixture of methyl 4-(pentylamino)-1H-imidazole-5-carbimidothioate (0.53 g, 2.4 mmol) and formic hydrazide (0.21 g, 3.5 mmol) in ethanol (10 mL) was refluxed overnight. The reaction mixture was concentrated under reduced pressure to yield the desired product as a slightly green viscose oil. LCMS calculated for C10H17N6 (M+H): 221.2; found: 221.1.

reactant | methyl 4-(pentylamino)-1H-imidazole-5-carbimidothioate | 2.4 mmol, 0.53 g | C(CCCC)NC=1N=CNC1C(=N)SC | C10H18N4S
reactant | formic hydrazide | 3.5 mmol, 0.21 g | C(=O)NN | CH4N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-Pentyl-5-(1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine | C(CCCC)NC=1N=CNC1C1=NC=NN1 | C10H16N6
